US04374248
A. 3,4-Dimethoxy-1,2,5-thiadiazole 1-oxide
A solution of 3,4-dimethoxy-1,2,5-thiadiazole (35.2 g; 24.1 mmoles) [prepared according to the procedure described in J. Org. Chem., 40, 2749 (1975)] in 100 ml of chloroform was added over a period of 3 minutes to a stirred solution of m-chloroperbenzoic acid (50.7 g; 25.0 mmoles; 85% assay) in 900 ml of chloroform at 20°, using a cooling bath to keep the exothermic reaction from rising above 32°. After stirring for 3 hours at ambient temperature, the excess peracid was reacted with an additional 2.0 g of 3,4-dimethoxy-1,2,5-thiadiazole and stirred for 1 hour.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole | 24.1 mmoles, 35.2 g | COC1=NSN=C1OC | C4H6N2O2S
reactant | m-chloroperbenzoic acid | 25.0 mmoles, 50.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole | 2.0 g | COC1=NSN=C1OC | C4H6N2O2S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 3,4-Dimethoxy-1,2,5-thiadiazole 1-oxide | COC1=NS(N=C1OC)=O | C4H6N2O3S
